US04898455
A solution of 0.94 ml of oxalyl chloride in 25 ml of dry methylene chloride is treated dropwise at -60° C. within 10 minutes with a solution of 1.56 ml of dimethyl sulphoxide in 5 ml of methylene chloride. 2 minutes later the reaction mixture is treated dropwise at -60° C. within 10 minutes with a solution of 3.51 g of 5-hexyl-2-[p-(trans-4-(hydroxymethyl)cyclohexyl)phenyl]pyridine in 10 ml of methylene chloride and stirred at -60° C. for a further 15 minutes. Thereafter, the reaction mixture is treated with 7 ml of triethylamine, left to warm to room temperature and then poured into water and extracted with methylene chloride. The organic phase is washed twice with water, dried over magnesium sulphate and evaporated. The 5-hexyl-2-[p-(trans- -4-formylcyclohexyl)phenyl]pyridine obtained is purified by chromatography on silica gel.

reactant | oxalyl chloride | 0.94 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 1.56 ml | CS(=O)C | C2H6OS
reactant | 5-hexyl-2-[p-(trans-4-(hydroxymethyl)cyclohexyl)phenyl]pyridine | 3.51 g | C(CCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CO | C24H33NO
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-hexyl-2-[p-(trans- -4-formylcyclohexyl)phenyl]pyridine | C(CCCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C24H31NO
